US07067540B2
Step 1: Preparation of 4-[(2,4-difluorobenzyl)oxy]-1-{3-[(dimethylamino)methyl]phenyl}-6-methylpyridin-2(1H)-one.
1-[3-(chloromethyl)phenyl]-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (from step 1 of the synthesis of EXAMPLE 293) (0.500 g, 1.330 mmol) was suspended in a stock solution of N,N-dimethylamine in methanol (2.0 mL, 2.0 M) and stirred overnight at room temperature. Reaction was concentrated and the residue partitioned between H2O (25 mL) and ethyl acetate (25 mL). The aqueous layer was further extracted with ethyl acetate (2×30 mL), and the combined organics were washed with brine (30 mL), dried over MgSO4, and concentrated to afford an off-white solid (0.508 g, 99%).

reactant | 1-[3-(chloromethyl)phenyl]-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | ClCC=1C=C(C=CC1)N1C(C=C(C=C1C)OCC1=C(C=C(C=C1)F)F)=O | C20H16ClF2NO2
reactant | N,N-dimethylamine | CNC | C2H7N
solvent | methanol | 2.0 M, 2.0 mL | CO | CH4O
product | 4-[(2,4-difluorobenzyl)oxy]-1-{3-[(dimethylamino)methyl]phenyl}-6-methylpyridin-2(1H)-one | 0.508 g, 99% | FC1=C(COC2=CC(N(C(=C2)C)C2=CC(=CC=C2)CN(C)C)=O)C=CC(=C1)F | C22H22F2N2O2
